US08404723B2
tert-Butyl (2E)-3-(4-cyano-2-methoxyphenyl)acrylate
4 g (5.7 mmol) of bis(triphenylphosphine)palladium(II) chloride are added to a degassed solution of 37.13 g (132 mmol) of 4-cyano-2-methoxyphenyl trifluoromethanesulfonate, 35 ml (245 mmol) of tert-butyl acrylate and 90 ml (645 mmol) of triethylamine in DMF (250 ml). The solution is stirred under a protective gas atmosphere at 100° C. for 24 h. Ice water (1000 ml) is then added, and the suspension is extracted with ethyl acetate ((3×100 ml). The organic phase is washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The residue is purified by column chromatography (silica gel, mobile phase: cyclohexane-ethyl acetate 10:1). 24.6 g (72% of theory) of the title compound are obtained as a white solid.

reactant | 4-cyano-2-methoxyphenyl trifluoromethanesulfonate | 132 mmol, 37.13 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C#N)OC)(F)F | C9H6F3NO4S
reactant | tert-butyl acrylate | 245 mmol, 35 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethylamine | 645 mmol, 90 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 5.7 mmol, 4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl (2E)-3-(4-cyano-2-methoxyphenyl)acrylate | C(#N)C1=CC(=C(C=C1)/C=C/C(=O)OC(C)(C)C)OC | C15H17NO3
